US04585588
trans-1-(2-Methoxycarbonylanilino)-2-ethoxycarbonylaminoindane (D4)
trans-1-Chloro-2-ethoxycarbonylaminoindane (20 g, 0.084 moles) was treated with methyl anthranilate (60 ml) and stirred under nitrogen at 60° for 5 hr. The resulting viscous mixture was diluted with ether (500 ml), washed exhaustively with 2.5N HCl (8×250 ml), and then with saturated sodium bicarbonate followed by brine. After drying (Na2SO4) and concentration in vacuo a brown solid (25.7 g) was obtained. Crystallisation from pentane/ether afforded the title compound (14 g; 58%) m.p. 108°-110°. Concentration of mother liquors gave a less pure second crop (2.6 g).

reactant | trans-1-Chloro-2-ethoxycarbonylaminoindane | 0.084 moles, 20 g | Cl[C@H]1[C@@H](CC2=CC=CC=C12)NC(=O)OCC | C12H14ClNO2
reactant | methyl anthranilate | 60 ml | C(C=1C(N)=CC=CC1)(=O)OC | C8H9NO2
solvent | ether | 500 ml | CCOCC | C4H10O
product | trans-1-(2-Methoxycarbonylanilino)-2-ethoxycarbonylaminoindane | 14 g, 58% | COC(=O)C1=C(N[C@H]2[C@@H](CC3=CC=CC=C23)NC(=O)OCC)C=CC=C1 | C20H22N2O4
